US08957070B2
N,N,N′-Trimethyl-N′-[2-(1,3-thiazol-2-yl)-1H-indol-7-yl]sulfamide
To a solution of N-methyl-2-(1,3-thiazol-2-yl)-1H-indole-7-amine hydrochloride (100 mg) in pyridine (3 mL) was added dimethylsulfamoyl chloride (200 μL). The reaction mixture was stirred at room temperature for 3 hr. The reaction mixture was concentrated, and the obtained residue was subjected to silica gel column chromatography (ethyl acetate:hexane=1:1) to give. the title compound (88 mg, yield 69%) as yellow crystals. melting point 123° C.

reactant | N-methyl-2-(1,3-thiazol-2-yl)-1H-indole-7-amine hydrochloride | 100 mg | Cl.CNC=1C=CC=C2C=C(NC12)C=1SC=CN1
reactant | dimethylsulfamoyl chloride | 200 μL | CN(S(=O)(=O)Cl)C | C2H6ClNO2S
solvent | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
product | N,N,N′-Trimethyl-N′-[2-(1,3-thiazol-2-yl)-1H-indol-7-yl]sulfamide | 88 mg, yield 69% | CN(S(=O)(=O)N(C=1C=CC=C2C=C(NC12)C=1SC=CN1)C)C | C14H16N4O2S2
